US09388174B2
A reaction mixture solution prepared by suspending 41.1 mg of 3-fluoro-4-hydroxybenzonitrile, 33.4 mg of isobutyl bromide and 62.2 mg of potassium carbonate in 1 mL of dimethylformamide was heated at 110° C. for 5 hours under a nitrogen atmosphere. After the addition of water to the reaction mixture solution, extraction was performed using ethyl acetate. The organic layer was washed with saline, followed by drying and concentrating under reduced pressure to obtain a crude product of 3-fluoro-4-(2-methylpropoxy)benzonitrile. (2) A reaction mixture prepared by adding 15.7 mg of sodium hydride and 24.5 mg of imidazole to the crude product of 3-fluoro-4-(2-methylpropoxy)benzonitrile obtained above and suspending the above in 1 mL of dimethylsulfoxide was heated at 110° C. for 5 hours under a nitrogen atmosphere. After the addition of water to the reaction mixture solution, extraction was performed using ethyl acetate. The organic layer was washed with saline, followed by drying and concentrating under reduced pressure to obtain a crude product of 3-(1H-imidazol-1-yl)-4-(2-methylpropoxy)benzonitrile.

reactant | 3-fluoro-4-hydroxybenzonitrile | 41.1 mg | FC=1C=C(C#N)C=CC1O | C7H4FNO
reactant | isobutyl bromide | 33.4 mg | C(C(C)C)Br | C4H9Br
reactant | potassium carbonate | 62.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 3-fluoro-4-(2-methylpropoxy)benzonitrile | FC=1C=C(C#N)C=CC1OCC(C)C | C11H12FNO
